US05556850
1-(2,2-Dimethylpropionyloxy)ethyl 3-methoxymethyl-7-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetamido]-3-cephem-4-carboxylate
9.5 ml (64 mmol) of DBU are slowly added to a suspension of 14.0 g (57 mmol) of 7-amino-3-methoxymethyl-3-cephem-4-carboxylic acid in 160 ml of anhydrous methylene chloride at 0° C. and the mixture is subsequently stirred at 0° C. for 30 minutes. 20.8 g (81 mmol) of 1-iodoethyl 2,2-dimethylpropionate are then added and the mixture is stirred at 0° C. for a further 30 minutes and then allowed to warm to room temperature in the course of 30 minutes. After renewed cooling to 0° C., the crude 2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetyl chloride (≃ 54 mmol), dissolved in 100 ml of methylene chloride, is added dropwise and the mixture is then stirred at 0° C. for a further 2 hours. The reaction mixture is concentrated in vacuo and the residue is taken up in ethyl acetate. The mixture is washed successively with 5% sodium thiosulfate solution, saturated sodium bicarbonate solution and saturated sodium chloride solution, and the organic phase is dried over sodium sulfate and concentrated to dryness in vacuo. The crude product is purified by chromatography on silica gel (35-70 μm) (column: 50 cm×8.5 cm, toluene/ethyl acetate=5/1).

reactant | DBU | 64 mmol, 9.5 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 7-amino-3-methoxymethyl-3-cephem-4-carboxylic acid | 57 mmol, 14.0 g | NC1[C@@H]2N(C(=C(CS2)COC)C(=O)O)C1=O | C9H12N2O4S
reactant | 1-iodoethyl 2,2-dimethylpropionate | 81 mmol, 20.8 g | CC(C(=O)OC(C)I)(C)C | C7H13IO2
reactant | 2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetyl chloride | 54 mmol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C43H32ClN3O2S
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,2-Dimethylpropionyloxy)ethyl 3-methoxymethyl-7-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetamido]-3-cephem-4-carboxylate | COCC=1CS[C@H]2N(C1C(=O)OC(C)OC(C(C)(C)C)=O)C(C2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C59H55N5O8S2
